2137-03-15 04:03:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54W admitted [**3-9**] with encephaolopathy, intubateed. Extubated 2 days
   ago sent to medical floor yesterday. This evening became tachypneic and
   hypoxemic. Also worsening urine output. Intubated and CVL placed. CXR
   showed very small lung volumes, large gastric bubble
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-12**] 12:00 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2137-3-15**] 12:10 AM
   Fentanyl - [**2137-3-15**] 01:33 AM
   Other medications:
   Changes to medical and family history:
   NASH cirrhosis
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-15**] 04:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 122 (110 - 128) bpm
   BP: 102/46(59) {73/45(52) - 112/53(67)} mmHg
   RR: 23 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
             27 mL
   PO:
             TF:
   IVF:
   27 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     15 mL
   Urine:
   15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.24/39/102/16/-10
   Ve: 5.6 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   73 K/uL
   123 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.1 mEq/L
   55 mg/dL
   118 mEq/L
   147 mEq/L
   28.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2137-3-11**]  10:41 AM
                             [**2137-3-11**]  12:56 PM
                             [**2137-3-12**]  05:23 AM
                             [**2137-3-12**]  07:15 AM
                             [**2137-3-12**]  08:13 AM
                             [**2137-3-12**]  04:34 PM
                             [**2137-3-13**]  03:41 AM
                             [**2137-3-13**]  05:32 PM
                             [**2137-3-14**]  10:36 PM
                             [**2137-3-15**]  03:25 AM
   WBC
   12.4
   11.0
   8.0
   8.9
   14.3
   Hct
   34.2
   25.3
   24.5
   24.2
   23.7
   24.8
   28.0
   Plt
   69
   52
   41
   49
   73
   Cr
   1.6
   1.2
   1.1
   0.9
   1.2
   TCO2
   17
   23
   18
   Glucose
   167
   124
   116
   109
   123
   Other labs: PT / PTT / INR:25.9/46.3/2.5, ALT / AST:73/73, Alk Phos / T
   Bili:131/9.9, Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %,
   Eos:2.4 %, Lactic Acid:4.6 mmol/L, Albumin:2.8 g/dL, LDH:329 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR small lung fields, bilateral infiltrates
   Assessment and Plan
   resp failure - likely combination of low lung volumes and fluid
   overload - pulmonary edema and ascites, continue vent support, will
   increase TV to overcome hypoventilation, new infiltrates may be edema -
   pneumonia another possibility, will culture and cover with antibiotics
   for now
   hypotension
 likely due to volume depletion and septic shock, pressor
   needs increasing, will check CVP - give IVF if low
   cirrhosis, ascites - consider therapeutic para, continue rifaximin and
   lactulose
   renal insufficiency - unclear whether volume down or HRS, check bladder
   pressure and CVP, consider IVF
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-3-15**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2137-03-15 09:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old lady returning to MICU 7 with NASH ESLD, complicated most
   recently by encephalopathy, returns due to respiratory failure in the
   setting of fluid resuscitation and oliguria.
   24 Hour Events:
   Received Lasix 40mg x2 yest but no response. Started on vanco +
   pip-tazo.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-3-12**] 12:00 PM
   Piperacillin - [**2137-3-15**] 05:00 AM
   Vancomycin - [**2137-3-15**] 05:40 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2137-3-15**] 12:10 AM
   Fentanyl - [**2137-3-15**] 01:33 AM
   Other medications:
   vit K, rifaximin, lactulose, cholestyramine, midodrine, Peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-15**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 96 (95 - 128) bpm
   BP: 94/47(57) {73/38(52) - 112/53(67)} mmHg
   RR: 35 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 7 (6 - 7)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
                             Total In:
                             2,090 mL
   PO:
                             TF:
   IVF:
   1,540 mL
   Blood products:
   360 mL
   Total out:
                                                                      0 mL
                                                                     72 mL
   Urine:
   72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,018 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30s
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35, Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/34/105/14/-8
   Ve: 15.9 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   50 K/uL
   139 mg/dL
   1.5 mg/dL
   14 mEq/L
   3.9 mEq/L
   55 mg/dL
   119 mEq/L
   147 mEq/L
   22.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2137-3-12**]  05:23 AM
                             [**2137-3-12**]  07:15 AM
                             [**2137-3-12**]  08:13 AM
                             [**2137-3-12**]  04:34 PM
                             [**2137-3-13**]  03:41 AM
                             [**2137-3-13**]  05:32 PM
                             [**2137-3-14**]  10:36 PM
                             [**2137-3-15**]  03:25 AM
                             [**2137-3-15**]  04:05 AM
                             [**2137-3-15**]  06:29 AM
   WBC
   12.4
   11.0
   8.0
   8.9
   14.3
   8.4
   Hct
   25.3
   24.5
   24.2
   23.7
   24.8
   28.0
   22.0
   Plt
   69
   52
   41
   49
   73
   50
   Cr
   1.2
   1.1
   0.9
   1.2
   1.5
   TropT
   0.04
   0.02
   TCO2
   23
   18
   18
   Glucose
   124
   116
   109
   123
   139
   Other labs: PT / PTT / INR:21.8/43.2/2.0, CK / CKMB /
   Troponin-T:64//0.02, ALT / AST:72/85, Alk Phos / T Bili:130/11.0,
   Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %, Eos:2.4 %, Lactic
   Acid:4.6 mmol/L, Albumin:2.8 g/dL, LDH:329 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: creat increased from 1.0 several days back
   FeNA = 0.29%
   UNa = 30
   Imaging: CXR- bilat opacifications, L effusion; v low lung volumes.
   Microbiology: Urine, Blood- pending
   Sputum- GPCs
   Assessment and Plan
   54 year old lady returning to MICU 7 with NASH ESLD, complicated most
   recently by encephalopathy, returns due to respiratory failure in the
   setting of fluid resuscitation and oliguria.
   1. Resp Failure- multifactorial, prob pna + pulm edema. Possible [**Doctor Last Name 11**] vs
   ARDS
   -ensure ARDSnet ventilation (low Vt)
   -wean FiO2 to goal PaO2 >60
   -check echo to eval heart fxn; exam suggests possible cardiac dysfxn
   -will tx w/ concentrated albumin and monitor
   2. Shock- septic +/- cardiogenic
   -vanco + pip-tazo + cipro (will incr to tx dose from prophy dose)
   -f/u cultures
   -check Scvo2, lactate; echo as above
   -place aline
   -on norepi gtt; wean as tolerated
   3. Oliguric ARF- prerenal picture, due either to shock as above vs HRS
   -f/u cx data
   -plan for albumin challenge as above and monitor UOP
   -Renal following
   4. ESLD- NASH, worsened liver profile, complicated by encephalopathy
   -Liver following, trending LFTs
   -lactulose and rifaximin
   -cont cholestyramine
   5. DIC- due to sepsis as above + liver dz; decr Hct / no overt bleeding
   -serial Hct
   -check fibrinogen and transfuse cryo as needed
   -cont vit K
   ICU Care
   Nutrition:
   Comments: monitor for stool output prior to initiating t.f.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-3-11**] 01:09 AM
   Multi Lumen - [**2137-3-15**] 01:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: son was [**Name (NI) 167**] overnight
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined this pt and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 13625**]
   note, including assessment and plan. I would add\:
   54 yo female with NASH cirrhosis recently on our service for hepatic
   encephalopathy and acute resp failure [**2-19**] inability to protect airway .
   On the floor she became oliguric and received 2 liters NS , after which
   she developed respiratory distress with hypercarbic failure. She was
   transferred back to the  ICU overnight and was intubated for acute
   respiratory failure. Bilious secretions suctioned during intubation.
   This morning, she was febrile and newly hypotensive. CvO2 78%, CVP 7.
   Echo prelim read: hyperdynamic LVEF
   WBC 9, Lactate 4
   7.3/35/103 On ACV 14, Tv 450 FiO2 0.6; PEEP 5
   Hyperchloremic acidosis
   Acute respiratory failure: from presumed combination aspiration
   PNA/pulmonary edema (cardiogenic vs. non cardiogenic)
   ARDSnet ventilation for Tv~6cc/IBW kg
   On abx to cover HCAP Pna
   Shock- Presumed septic given n
l cardiac function; On Vanc/Zosyn/Cipro
   for broad coverage with GPC on sputum GS.  F/u Cx
s and adjust abx as
   needed. Currently pressor-dependent, will wean Levophed for MAP>60;
   fluid resuscitate
   ARF- Earlier in this hospitalization, was fluid-responsive suggesting
   pre-renal azotemia. Given concomitant shock/fever, may have a component
   of ATN also. Will trend renal function
   NASH cirrhosis- lactulose and rifaximinin
   Acidosis: appears at least partly due to NS as she is hyperchloremic-
   switch to LR for resuscitation
   Pt is critically ill. Total time spent: 55 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2137-3-15**] 15:09 ------

2137-03-16 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2137-3-15**] 01:16 PM
 TRANSTHORACIC ECHO - At [**2137-3-15**] 01:30 PM
 PARACENTESIS - At [**2137-3-15**] 04:30 PM
   procedure aborted.  Air drawn with needle by MD while seeking fluid
   pocket.  ? perfed bowel.  KUB ordered.
   - per renal, would not give bicarb (compensator for resp alk)
   - 250 cc FW q4h for 6 doses
   - repeat lactate/ScVo2 after albumin challenge slightly better
   - dx para per liver recs:
   - echo: hyperdynamic heart, needs fluid
   - fibrinogen stabilized after 1 unit cryo overnight
   - breathing at 40, increasing sedation
   - weaning levophed, giving LR
   - O2 Sat fell after fluids, increasing PEEP from 5 to 10
   - goal PaO2 60
   - pH 7.1-->increasing rate from 20 to 25
   - Hct 19-->2units--> appropriate bump
   - pH persistently low, metabolic acidosis, dyssynchronoous with vent,
   bladder pressure 12-->paralyzing with 10 mg IV vecuronium
   - called son to let him know she may be dying - he would still like
   full code but may move toward something else tomorrow, wants to talk to
   patient's husband
   - dys-synchronous and acidotic, paralyzed with vecuronium (may stick
   around for a while give ESLD.....) acidosis improved somewhat
   - persistently hypotensive on levophed, started vasopressin as second
   [**Doctor Last Name **]
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-15**] 05:40 AM
   Piperacillin - [**2137-3-15**] 10:00 PM
   Ciprofloxacin - [**2137-3-16**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Vecuronium - [**2137-3-16**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-16**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 87 (87 - 108) bpm
   BP: 87/52(66) {79/46(59) - 126/59(79)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 20 (7 - 25)mmHg
   Bladder pressure: 12 (6 - 12) mmHg
                                Total In:
                                                                  5,623 mL
                                                                    790 mL
   PO:
                                TF:
   IVF:
                                                                  3,678 mL
                                                                    645 mL
   Blood products:
                                                                  1,165 mL
                                                                    145 mL
   Total out:
                                                                    112 mL
                                                                     14 mL
   Urine:
                                                                    112 mL
                                                                     14 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,511 mL
                                                                    776 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   SpO2: 98%
   ABG: 7.31/36/94.[**Numeric Identifier 126**]/18/-7
   Ve: 12.4 L/min
   PaO2 / FiO2: 94
   Physical Examination
   GEN: Rapidly breathing, uncomfortable; opens eyes to loud voice
   SKIN: Petechial rash under breasts, ecchymoses on upper extremities
   HEENT: No JVD, neck supple, No lymphadenopathy, icteric sclera
   CHEST: Crackles and wheezes in all lung fields.
   CARDIAC: S1&S2 fast, no murmurs appreciated.
   ABDOMEN: Distended, + fluid wave, not tense
   EXTREMITIES: warm, edematous
   NEUROLOGIC: opens eyes to loud voice.
   Labs / Radiology
   31 K/uL
   9.4 g/dL
   140 mg/dL
   1.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   56 mg/dL
   115 mEq/L
   144 mEq/L
   28.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2137-3-15**]  06:05 PM
                             [**2137-3-15**]  06:17 PM
                             [**2137-3-15**]  09:03 PM
                             [**2137-3-15**]  10:10 PM
                             [**2137-3-16**]  01:28 AM
                             [**2137-3-16**]  01:40 AM
                             [**2137-3-16**]  02:01 AM
                             [**2137-3-16**]  02:40 AM
                             [**2137-3-16**]  06:22 AM
                             [**2137-3-16**]  06:33 AM
   WBC
   8.5
   8.1
   Hct
   19.8
   28.1
   28.2
   Plt
   39
   31
   Cr
   1.2
   1.5
   TCO2
   20
   19
   19
   18
   17
   19
   Glucose
   118
   140
   Other labs: PT / PTT / INR:28.0/47.6/2.7, CK / CKMB /
   Troponin-T:64//0.02, ALT / AST:72/85, Alk Phos / T Bili:130/11.0,
   Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %, Eos:2.4 %,
   Fibrinogen:135 mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.8 g/dL, LDH:329
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: pH 7.31 pCO2 36 pO2 94 HCO3 19
   Type:Art; Intubated; FiO2%:70; Rate:24/; TV:450; PEEP:8;
   Lactate:4.5
   Imaging: TTE: Regional left ventricular wall motion is normal. Overall
   left ventricular systolic function is normal (LVEF>55%). Tissue Doppler
   imaging suggests a normal left ventricular filling pressure
   (PCWP<12mmHg). with normal free wall contractility. There is no aortic
   valve stenosis. No aortic regurgitation is seen. The mitral valve
   leaflets are structurally normal. Trivial mitral regurgitation is seen.
   There is no pericardial effusion.
   KUB: No free air under diaphragm
   Microbiology: GRAM STAIN (Final [**2137-3-15**]):
   >25 PMNs and <10 epithelial cells/100X field.
   1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   A 54 yo Lady with ESLD from NASH with worsening respiratory failure and
   hemodynamics.
   1.       Respiratory Failure: Difficult to ventilate, ?PNA vs. ARDS,
   distended belly, edema from renal failrue
   - Train of 4 to evaluate paralysis state
 Cisatra if not paralyzed
   - CXR
   - Consider bronch if unable to find other causes
   - Continue Vanc/Zosyn/Cipro for ?VAP, renally dosed/dosed by level
   - Nebs
   - Repeat ABG
   2.       Hypotension: Likely septic shock, possibly hypovolemic given
   Echo results, but total body overloaded.
   - Vanc/Zosyn/Cipro as above
   - Albumin for fluid hydration now 50g challenge
   - Norepi Goal MAP >60
   - Vasopressin to 2.4
   - Broaded to Micafungin 100mg Daily
   - stress dose steroids, hydrocort 100 IV Q8
   3. Oliguric renal failure: FeNa <1%, prerenal (may be hepatorenal vs
   dry)
   - fluid challenge
   - discuss CVVH with family
   4. ESLD: Worsening bili
   - Hold Diagnostic Paracentesis given that we are treating
   - Liver Recs
   5. Altered mental status, likely hepatic encephalopathy and
   hospital-acquired delirium with sedation worsening.
   - Continue rifaxamin
   - Hold Lactulose while dry
   6. ? Hemolytic anemia:
   - recheck fibrinogen and give cryo <100
   - recheck Hct and transfuse PRN (has active T&C)
   - [**Hospital1 7**] Coags/Fibrinogen/Platelet check
   7. Worsening Metabolic Acidosis/Lactice acidosis
   - Can increase respiratory rate
   - Considering Bicarb
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-3-11**] 01:09 AM
   Multi Lumen - [**2137-3-15**] 01:55 AM
   Arterial Line - [**2137-3-15**] 01:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2137-03-16 09:46:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54F with ESLD, here with resp failure, acidemia, ARF:
   24 Hour Events:
 ARTERIAL LINE - START [**2137-3-15**] 01:16 PM
 TRANSTHORACIC ECHO - At [**2137-3-15**] 01:30 PM
 PARACENTESIS - At [**2137-3-15**] 04:30 PM
   procedure aborted.  Air drawn with needle by MD while seeking fluid
   pocket.  ? perfed bowel.  KUB ordered
 no free air.
   -fibrinogen given for ? low grade DIC
   -overnight worsening oxygenation
 increased PEEP, FiO2 back to 1
   -hypotension, managed with fluids and albumin
   - increased vasopressor requirements
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-15**] 05:40 AM
   Piperacillin - [**2137-3-15**] 10:00 PM
   Ciprofloxacin - [**2137-3-16**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Vecuronium - [**2137-3-16**] 02:05 AM
   Other medications:
   Prop, rifax, lactulose, cholestiramin, pantopr, midodrine, vanco,
   norepi, vit k, cipro, zosyn, fent, versed, vasopressin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Integumentary (skin): Jaundice
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2137-3-16**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 99 (87 - 108) bpm
   BP: 107/56(74) {79/46(59) - 126/59(79)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 15 (10 - 25)mmHg
   Bladder pressure: 15 (6 - 15) mmHg
                                Total In:
                                                                  5,623 mL
                                                                  1,008 mL
   PO:
                                TF:
   IVF:
                                                                  3,678 mL
                                                                    763 mL
   Blood products:
                                                                  1,165 mL
                                                                    145 mL
   Total out:
                                                                    112 mL
                                                                     59 mL
   Urine:
                                                                    112 mL
                                                                     59 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,511 mL
                                                                    949 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.31/36/94.[**Numeric Identifier 126**]/13/-7
   Ve: 11.1 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: sedated, intubated
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: clear anteriorly, bronchial
   laterally: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm multiple petichae
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   31 K/uL
   119 mg/dL
   1.8 mg/dL
   13 mEq/L
   3.3 mEq/L
   55 mg/dL
   113 mEq/L
   143 mEq/L
   28.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2137-3-15**]  06:05 PM
                             [**2137-3-15**]  06:17 PM
                             [**2137-3-15**]  09:03 PM
                             [**2137-3-15**]  10:10 PM
                             [**2137-3-16**]  01:28 AM
                             [**2137-3-16**]  01:40 AM
                             [**2137-3-16**]  02:01 AM
                             [**2137-3-16**]  02:40 AM
                             [**2137-3-16**]  06:22 AM
                             [**2137-3-16**]  06:33 AM
   WBC
   8.5
   8.1
   Hct
   19.8
   28.1
   28.2
   Plt
   39
   31
   Cr
   1.2
   1.5
   1.8
   TCO2
   20
   19
   19
   18
   17
   19
   Glucose
   118
   140
   119
   Other labs: PT / PTT / INR:28.0/47.6/2.7, CK / CKMB /
   Troponin-T:64//0.02, ALT / AST:77/120, Alk Phos / T Bili:113/13.8,
   Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %, Eos:2.4 %,
   Fibrinogen:135 mg/dL, Lactic Acid:4.5 mmol/L, Albumin:2.8 g/dL, LDH:578
   IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr: not done yet; ards yesterday
   Microbiology: pending (GPC in sputum)
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   54F with NASH, ESLD, here with respiratory failure, aneuric renal
   failure, and refractory shock, unstable:
   Shock: multifactorial, contribution
   -continue norepi, vasopressin
   -start stress dose steroids
   -cont abx and start antifungals
   -fluid support challenging
   -source search needs CT abd/chest but currently not stable
   -MAP goal 60
   -albumin prn
   Respiratory failure: multifactorial, ARDS
   -continue current support
 low TV vent
   -consider bronch if more stable
   -cont abx, dosing for GFR 0
   -start antifungals
   ARF: renal following, would need CVVH though seems unlikely to result
   in overall benefit given multi organ dysfunction; ATN vs HRS.  Continue
   supportive care through pressors / bicarb, renally dosing meds.
   Thrombocytopenia
   -monitor
   -check DIC panel [**Hospital1 **]
   ICU Care
   Nutrition: start feeds today if more stable
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-3-11**] 01:09 AM
   Multi Lumen - [**2137-3-15**] 01:55 AM
   Arterial Line - [**2137-3-15**] 01:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR after family meeting, no escalation of care (no CVVH)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2137-03-17 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Decision made not to escalate Care
   - Worsening Vent settings, acidosis, Lactate but not pressor
   requirements
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-16**] 09:13 AM
   Micafungin - [**2137-3-16**] 01:11 PM
   Ciprofloxacin - [**2137-3-17**] 12:40 AM
   Piperacillin - [**2137-3-17**] 05:52 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-16**] 08:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-17**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 103 (99 - 110) bpm
   BP: 96/48(65) {89/48(64) - 111/61(76)} mmHg
   RR: 30 (24 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 21 (14 - 26)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,903 mL
                                                                    769 mL
   PO:
   TF:
   IVF:
                                                                  2,168 mL
                                                                    769 mL
   Blood products:
                                                                    345 mL
   Total out:
                                                                    156 mL
                                                                     35 mL
   Urine:
                                                                    156 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,747 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   SpO2: 92%
   ABG: 7.12/40/105/12/-16
   Ve: 13.9 L/min
   PaO2 / FiO2: 105
   Physical Examination
   GEN: intubated/sedated
   SKIN: Petechial rash under breasts, ecchymoses on upper extremities
   HEENT: No JVD, neck supple, No lymphadenopathy, icteric sclera
   CHEST: Crackles and wheezes in all lung fields.
   CARDIAC: S1&S2 fast, no murmurs appreciated.
   ABDOMEN: Distended, + fluid wave, increasingly tense
   EXTREMITIES: warm, edematous
   NEUROLOGIC: non-responsive
   Labs / Radiology
   43 K/uL
   8.6 g/dL
   145 mg/dL
   2.0 mg/dL
   12 mEq/L
   5.2 mEq/L
   62 mg/dL
   106 mEq/L
   134 mEq/L
   25.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2137-3-16**]  02:01 AM
                             [**2137-3-16**]  02:40 AM
                             [**2137-3-16**]  06:22 AM
                             [**2137-3-16**]  06:33 AM
                             [**2137-3-16**]  08:54 AM
                             [**2137-3-16**]  12:54 PM
                             [**2137-3-16**]  05:15 PM
                             [**2137-3-16**]  07:58 PM
                             [**2137-3-17**]  02:57 AM
                             [**2137-3-17**]  03:09 AM
   WBC
   8.1
   11.0
   13.4
   Hct
   28.2
   25.5
   25.9
   Plt
   31
   36
   43
   Cr
   1.5
   1.8
   2.2
   2.0
   TCO2
   17
   19
   16
   16
   14
   14
   Glucose
   140
   119
   126
   145
   Other labs: PT / PTT / INR:35.2/61.2/3.6, CK / CKMB /
   Troponin-T:64//0.02, ALT / AST:86/148, Alk Phos / T Bili:79/16.0,
   Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %, Eos:2.4 %,
   Fibrinogen:106 mg/dL, Lactic Acid:6.0 mmol/L, Albumin:2.8 g/dL, LDH:609
   IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Microbiology: GRAM STAIN (Final [**2137-3-15**]):       >25 PMNs and <10
   epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   NASH
 HEPATIC ENCEPHALOPATHY
   A 54 yo Lady with ESLD from NASH with worsening respiratory failure and
   hemodynamics overnight with severe metabolic acidosis.
   1.       Respiratory Failure: Continues to overbreath the vent with
   desynchrony, difficult to ventilate, PNA with positive sputum possibly
   complicated by ARDS
   - Repeat CXR this AM
   - Consider bronch if unable to find other causes
   - Continue Vanc/Zosyn/Cipro for ?VAP, renally dosed/dosed by level
   - Nebs
   - Repeat ABG today
   - Increase as sedation as tolerated
   - Trial of NaHCO3
   - Meet with family today
   2.       Hypotension: Likely septic shock, possibly hypovolemic given
   Echo results, but total body overloaded.
   - Vanc/Zosyn/Cipro/Micafungin as above
   - Norepi Goal MAP >60
   - Vasopressin to 2.4
   - D/C stress dose steroids, hydrocort 100 IV Q8
   3. Oliguric renal failure: FeNa <1%, prerenal (may be hepatorenal vs
   dry). CVVH discussed with family, decided against
   - NaHCO3 challenge
   4. ESLD: Worsening bili today, as well as LFTs
   - Hold Diagnostic Paracentesis
   - Liver Recs
   - Daily LFTs
   5. Altered mental status, likely hepatic encephalopathy and
   hospital-acquired delirium with sedation worsening.
   - Continue rifaxamin
   - Hold Lactulose while dry
   6. ? Hemolytic anemia:
   - recheck fibrinogen and give cryo <100
   - recheck Hct and transfuse PRN (has active T&C)
   - Daily Coags/Fibrinogen/Platelet check
   7. Worsening Metabolic Acidosis/Lactic acidosis: GI losses vs. ischemic
   colitis
   - Attempt Bicarb
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-3-11**] 01:09 AM
   Multi Lumen - [**2137-3-15**] 01:55 AM
   Arterial Line - [**2137-3-15**] 01:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2137-03-17 08:47:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension, ARF
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54F with ESLD, 3 months of worsening hepatic encephalopathy, admitted
   for work-up of encephalopathy, now in respiratory failure with ARDS,
   ARF, hypotension:
   24 Hour Events:
   - family meeting -- no escalation of care
   - increased vent setting overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-16**] 09:13 AM
   Micafungin - [**2137-3-16**] 01:11 PM
   Ciprofloxacin - [**2137-3-17**] 12:40 AM
   Piperacillin - [**2137-3-17**] 05:52 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-3-16**] 08:55 PM
   Other medications:
   rifax, lactulose, cholestiramine, pantopr, midodrine, vanco, norepi,
   versed, fent, cipro, vasopression, hydrocort, zosyn, micafung
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Respiratory: Dyspnea
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2137-3-17**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 103 (101 - 110) bpm
   BP: 96/48(65) {89/48(64) - 111/61(76)} mmHg
   RR: 30 (24 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 21 (14 - 26)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,903 mL
                                                                    791 mL
   PO:
   TF:
   IVF:
                                                                  2,168 mL
                                                                    791 mL
   Blood products:
                                                                    345 mL
   Total out:
                                                                    156 mL
                                                                     35 mL
   Urine:
                                                                    156 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,747 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   SpO2: 92%
   ABG: 7.12/40/105/12/-16
   Ve: 13.9 L/min
   PaO2 / FiO2: 105
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Pupils dilated, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   43 K/uL
   145 mg/dL
   2.0 mg/dL
   12 mEq/L
   5.2 mEq/L
   62 mg/dL
   106 mEq/L
   134 mEq/L
   25.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2137-3-16**]  02:01 AM
                             [**2137-3-16**]  02:40 AM
                             [**2137-3-16**]  06:22 AM
                             [**2137-3-16**]  06:33 AM
                             [**2137-3-16**]  08:54 AM
                             [**2137-3-16**]  12:54 PM
                             [**2137-3-16**]  05:15 PM
                             [**2137-3-16**]  07:58 PM
                             [**2137-3-17**]  02:57 AM
                             [**2137-3-17**]  03:09 AM
   WBC
   8.1
   11.0
   13.4
   Hct
   28.2
   25.5
   25.9
   Plt
   31
   36
   43
   Cr
   1.5
   1.8
   2.2
   2.0
   TCO2
   17
   19
   16
   16
   14
   14
   Glucose
   140
   119
   126
   145
   Other labs: PT / PTT / INR:35.2/61.2/3.6, CK / CKMB /
   Troponin-T:64//0.02, ALT / AST:86/148, Alk Phos / T Bili:79/16.0,
   Differential-Neuts:77.9 %, Lymph:13.3 %, Mono:5.9 %, Eos:2.4 %,
   Fibrinogen:106 mg/dL, Lactic Acid:6.0 mmol/L, Albumin:2.8 g/dL, LDH:609
   IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Imaging: cxr: poending
   Microbiology: bcx:
   Assessment and Plan
   54F with ESLD from NASH, 3 months of worsening hepatic encephalopathy,
   admitted for work-up of encephalopathy, now in respiratory failure with
   ARDS, ARF, shock. No significant improvement with antimicrobials at
   this time. The primary cause of her severe shock is still not clear.
   DDX includes pneumonia with GPCs in sputum vs abdominal catastrophe.
   She remains too unstable for any invasive diagnostic or therapeutic
   procedures. She is too unstable to travel. She has not started to make
   urine either. DDX of arf remains ATN, HRS, abdominal compartment
   syndrome.
   Will discuss with hepatology and renal consults and will plan to hold a
   family meeting this morning with plans to move to change the focus of
   care to comfort.
   ICU Care
   Nutrition: npo
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2137-3-11**] 01:09 AM
   Multi Lumen - [**2137-3-15**] 01:55 AM
   Arterial Line - [**2137-3-15**] 01:16 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Decision made with Family,  Dr. [**First Name (STitle) **],and Dr. [**Last Name (STitle) 7375**] that patient would
   not want further aggressive measures so patient will be made comfort
   measures only, with stoppage of pressors after visit from chaplain.
   Family is in agreement and has not further questions.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2137-3-17**] 14:20 ------